### ISSUE TITLE
Recursive theorems with `cases` vs `match`

### ISSUE THREAD

**Issue by hargoniX** [leanprover/lean4#5690]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Consider:
```lean
inductive C : Nat → Type where
| C0  : C 0
| C1  : C n → C (1 + n)
| C2  : C n → C n → C n

open C

def id_C (c : C n) : C n :=
  match c with
  | C0       => C0
  | C1 c     => C1 (id_C c)
  | C2 c₁ c₂ => C2 (id_C c₁) (id_C c₂)
```
We can prove the following theorem with `match` or `induction`:
```lean
theorem id_c_is_identity (c : C n) : id_C c = c := by
  match c with
  | C0 => simp [id_C]
  | C1 inner => simp [id_C, id_c_is_identity inner]
  | C2 lhs rhs => simp [id_C, id_c_is_identity lhs, id_c_is_identity rhs]
```
this will use the structural termination metric on `c` as expected.
However the following:
```lean
theorem id_c_is_identity (c : C n) : id_C c = c := by
  cases c
  · simp [id_C]
  · simp [id_C]
    rw [id_c_is_identity]
  · simp [id_C]
    rw [id_c_is_identity]
    rw [id_c_is_identity]
    simp
```
Fails to prove termination, if we force a use of the structural metric:
```lean
theorem id_c_is_identity (c : C n) : id_C c = c := by
  cases c
  · simp [id_C]
  · simp [id_C]
    rw [id_c_is_identity]
  · simp [id_C]
    rw [id_c_is_identity]
    rw [id_c_is_identity]
    simp
termination_by structural c
```
We get
```
failed to infer structural recursion:
Cannot use parameter c:
  failed to eliminate recursive application
    id_c_is_identity n✝ a✝¹
```

### Steps to Reproduce

**Expected behavior:** Given that it works with `match` it should either also work with `cases` or there should be a better error message explaining why that is not the case (haha).

**Actual behavior:** `match` works, `cases` doesn't.

### Versions

"4.12.0-nightly-2024-10-13"

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
What happens if you pass explicit arguments to the theorem before passing them to `rw`? I.e. is the problem with `rw` or with `cases`?

**Comment by hargoniX** [comment]
Breaks in the same fashion, updated the issue to align the code.

**Comment by nomeata** [comment]
Interestingly the issue is only with `C2`, not with `C1`.


Initial debugging with `set_option trace.Elab.definition true`: This is the predefinition with `cases`

```lean
id_c_is_identity : ∀ {n : Nat} (c : C n), id_C c = c :=
    fun {n} c =>
      C.casesOn (motive := fun a t => n = a → HEq c t → id_C c = c) c
        (fun h =>
          Eq.ndrec (motive := fun {n} => ∀ (c : C n), HEq c C.C0 → id_C c = c)
            (fun c h => Eq.symm (eq_of_heq h) ▸ of_eq_true (eq_self C.C0)) (Eq.symm h) c)
        (fun {n_1} inner h =>
          Eq.ndrec (motive := fun {n} => ∀ (c : C n), HEq c inner.C1 → id_C c = c)
            (fun c h =>
              Eq.symm (eq_of_heq h) ▸
                of_eq_true
                  (Eq.trans (congrArg (fun x => x.C1 = inner.C1) (_root_.id_c_is_identity n_1 inner))
                    (eq_self inner.C1)))
            (Eq.symm h) c)
        (fun {n_1} lhs rhs h =>
          Eq.ndrec (motive := fun {n_2} => ∀ (lhs rhs : C n_2), HEq c (lhs.C2 rhs) → id_C c = c)
            (fun lhs rhs h =>
              Eq.symm (eq_of_heq h) ▸
                of_eq_true
                  (Eq.trans
                    (congrArg (fun x => x = lhs.C2 rhs)
                      (congr (congrArg C.C2 (_root_.id_c_is_identity n lhs)) (_root_.id_c_is_identity n rhs)))
                    (eq_self (lhs.C2 rhs))))
            h lhs rhs)
        (Eq.refl n) (HEq.refl c) 
```
and this with `match`:
```lean
id_c_is_identity : ∀ {n : Nat} (c : C n), id_C c = c :=
    fun {n} c =>
      match n, c with
      | .(0), C.C0 => of_eq_true (eq_self C.C0)
      | .(1 + n), inner.C1 =>
        of_eq_true (Eq.trans (congrArg (fun x => x.C1 = inner.C1) (_root_.id_c_is_identity n inner)) (eq_self inner.C1))
      | n, lhs.C2 rhs =>
        of_eq_true
          (Eq.trans
            (congrArg (fun x => x = lhs.C2 rhs)
              (congr (congrArg C.C2 (_root_.id_c_is_identity n lhs)) (_root_.id_c_is_identity n rhs)))
            (eq_self (lhs.C2 rhs))) 
```

Clearly the `cases` construction, with `C.casesOn`, is more complicated. There is still a chance that the transformation done for structural recursion (with the `C.below` value pushed into the `C.casesOn` could work here, but hard to tell without digging deeper (i.e. adding more tracing.)

Using well-founded recursion one gets
```
failed to prove termination, possible solutions:
  - Use `have`-expressions to prove the remaining goals
  - Use `termination_by` to specify a different well-founded relation
  - Use `decreasing_by` to specify your own tactic for discharging this kind of goal
n✝ : Nat
c : C n✝
a✝² : ∀ (y : C n✝), (invImage (fun x => x) instWellFoundedRelationOfSizeOf).1 y c → id_C y = y
n : Nat
a✝¹ a✝ : C n
x✝ : ∀ (y : C n), (invImage (fun x => x) instWellFoundedRelationOfSizeOf).1 y (a✝¹.C2 a✝) → id_C y = y
h✝¹ : n✝ = n
lhs rhs : C n✝
h✝ : HEq c (lhs.C2 rhs)
⊢ sizeOf lhs < 1 + n + sizeOf a✝¹ + sizeOf a✝
```
and notices that there is a `HEq` that isn't actually heterogenous at this point, so maybe that’s also a lead.


Anyways, this first investigation does not point to a quick fix, and there seems to be a work-around, so will not dig deeper until this happens more often or becomes a clear blocker.
